US04665070
A solution of ethyl 2-carboethoxyamino-4-nitro-6-ethyl-benzoate in tetrahydrofuran (10 ml) and sodium hydroxide (20 ml, 10%) was stirred at room temperature for 20 hours. The solution was extracted with ethyl acetate. The aqueous layer was acidified to pH=1 with 6M HCl, and then immediately extracted with ethylacetate. The ethyl acetate extract was washed with water and dried over magnesium sulphate. Solvent evaporation gave a solid which was further recrystallized from methylene chloride:petroleum ether to yield 2-carboethoxyamino-4-nitro-6-ethyl benzoic acid,

reactant | ethyl 2-carboethoxyamino-4-nitro-6-ethyl-benzoate | C(=O)(OCC)NC1=C(C(=O)OCC)C(=CC(=C1)[N+](=O)[O-])CC | C14H18N2O6
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | sodium hydroxide | 20 ml | [OH-].[Na+]
product | 2-carboethoxyamino-4-nitro-6-ethyl benzoic acid | C(=O)(OCC)NC1=C(C(=O)O)C(=CC(=C1)[N+](=O)[O-])CC | C12H14N2O6
